*$ model description: "awb3n256"
*b Device model created by analog_uprev for 3n256 on Tue Feb  6 09:16:05 IST 2001
.subckt awb3n256   1 2 3 4
+ params:
+ IS=266.700010n
+ RS=12.000000m
+ N=2.5175
+ TT=11.800000u
+ CJO=15.000000p
+ VJ=600.000000m
+ M=449.999970m
+ XTI=3
+ BV=500
+ IBV=1.0
xinst3n256   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  xti={XTI}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awb3n256
*$ end model description: "awb3n256"
*
*
*$ model description: "awbkbpc_35_06"
*b Device model created by analog_uprev for kbpc_35_06 on Tue Feb  6 09:16:05 IST 2001
.subckt awbkbpc_35_06   1 2 3 4
+ params:
+ IS=6.720000n
+ RS=2.210000m
+ N=1.565
+ TT=99.999990n
+ CJO=871.999820p
+ VJ=436.999940m
+ M=437.999970m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=700
+ IBV=1.0
xinstkbpc_35_06   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbkbpc_35_06
*$ end model description: "awbkbpc_35_06"
*
*
*$ model description: "awbmda2500"
*b Device model created by analog_uprev for mda2500 on Tue Feb  6 09:16:05 IST 2001
.subckt awbmda2500   1 2 3 4
+ params:
+ IS=1.000000p
+ RS=2.000000m
+ N=1
+ TT=5.300000u
+ CJO=474.999910p
+ VJ=549.999880m
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=100
+ IBV=1.0
xinstmda2500   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmda2500
*$ end model description: "awbmda2500"
*
*
*$ model description: "awbmda2501"
*b Device model created by analog_uprev for mda2501 on Tue Feb  6 09:16:05 IST 2001
.subckt awbmda2501   1 2 3 4
+ params:
+ IS=1.000000p
+ RS=2.000000m
+ N=1
+ TT=5.300000u
+ CJO=474.999910p
+ VJ=549.999880m
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=200
+ IBV=1.0
xinstmda2501   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmda2501
*$ end model description: "awbmda2501"
*
*
*$ model description: "awbmda2502"
*b Device model created by analog_uprev for mda2502 on Tue Feb  6 09:16:05 IST 2001
.subckt awbmda2502   1 2 3 4
+ params:
+ IS=1.000000p
+ RS=2.000000m
+ N=1
+ TT=5.300000u
+ CJO=474.999910p
+ VJ=549.999880m
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=300
+ IBV=1.0
xinstmda2502   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmda2502
*$ end model description: "awbmda2502"
*
*
*$ model description: "awbmda2504"
*b Device model created by analog_uprev for mda2504 on Tue Feb  6 09:16:05 IST 2001
.subckt awbmda2504   1 2 3 4
+ params:
+ IS=1.000000p
+ RS=2.000000m
+ N=1
+ TT=5.300000u
+ CJO=474.999910p
+ VJ=549.999880m
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=500
+ IBV=1.0
xinstmda2504   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmda2504
*$ end model description: "awbmda2504"
*
*
*$ model description: "awbmda2506"
*b Device model created by analog_uprev for mda2506 on Tue Feb  6 09:16:05 IST 2001
.subckt awbmda2506   1 2 3 4
+ params:
+ IS=1.000000p
+ RS=2.000000m
+ N=1
+ TT=5.300000u
+ CJO=474.999910p
+ VJ=549.999880m
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=700
+ IBV=1.0
xinstmda2506   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmda2506
*$ end model description: "awbmda2506"
*
*
*$ model description: "awbmda2508"
*b Device model created by analog_uprev for mda2508 on Tue Feb  6 09:16:05 IST 2001
.subckt awbmda2508   1 2 3 4
+ params:
+ IS=1.000000p
+ RS=2.000000m
+ N=1
+ TT=5.300000u
+ CJO=474.999910p
+ VJ=549.999880m
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=800
+ IBV=1.0
xinstmda2508   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmda2508
*$ end model description: "awbmda2508"
*
*
*$ model description: "awbmda2510"
*b Device model created by analog_uprev for mda2510 on Tue Feb  6 09:16:05 IST 2001
.subckt awbmda2510   1 2 3 4
+ params:
+ IS=1.000000p
+ RS=2.000000m
+ N=1
+ TT=5.300000u
+ CJO=474.999910p
+ VJ=549.999880m
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=1000
+ IBV=1.0
xinstmda2510   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmda2510
*$ end model description: "awbmda2510"
*
*
*$ model description: "awbmda3500"
*b Device model created by analog_uprev for mda3500 on Tue Feb  6 09:16:05 IST 2001
.subckt awbmda3500   1 2 3 4
+ params:
+ IS=749.999940f
+ RS=2.000000m
+ N=1
+ TT=4.000000u
+ CJO=439.999910p
+ VJ=1
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=100
+ IBV=1.0
xinstmda3500   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmda3500
*$ end model description: "awbmda3500"
*
*
*$ model description: "awbmda3501"
*b Device model created by analog_uprev for mda3501 on Tue Feb  6 09:16:05 IST 2001
.subckt awbmda3501   1 2 3 4
+ params:
+ IS=749.999940f
+ RS=2.000000m
+ N=1
+ TT=4.000000u
+ CJO=439.999910p
+ VJ=1
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=200
+ IBV=1.0
xinstmda3501   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmda3501
*$ end model description: "awbmda3501"
*
*
*$ model description: "awbmda3502"
*b Device model created by analog_uprev for mda3502 on Tue Feb  6 09:16:05 IST 2001
.subckt awbmda3502   1 2 3 4
+ params:
+ IS=749.999940f
+ RS=2.000000m
+ N=1
+ TT=4.000000u
+ CJO=439.999910p
+ VJ=1
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=300
+ IBV=1.0
xinstmda3502   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmda3502
*$ end model description: "awbmda3502"
*
*
*$ model description: "awbmda3504"
*b Device model created by analog_uprev for mda3504 on Tue Feb  6 09:16:05 IST 2001
.subckt awbmda3504   1 2 3 4
+ params:
+ IS=749.999940f
+ RS=2.000000m
+ N=1
+ TT=4.000000u
+ CJO=439.999910p
+ VJ=1
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=500
+ IBV=1.0
xinstmda3504   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmda3504
*$ end model description: "awbmda3504"
*
*
*$ model description: "awbmda3506"
*b Device model created by analog_uprev for mda3506 on Tue Feb  6 09:16:05 IST 2001
.subckt awbmda3506   1 2 3 4
+ params:
+ IS=749.999940f
+ RS=2.000000m
+ N=1
+ TT=4.000000u
+ CJO=439.999910p
+ VJ=1
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=700
+ IBV=1.0
xinstmda3506   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmda3506
*$ end model description: "awbmda3506"
*
*
*$ model description: "awbmda3508"
*b Device model created by analog_uprev for mda3508 on Tue Feb  6 09:16:05 IST 2001
.subckt awbmda3508   1 2 3 4
+ params:
+ IS=749.999940f
+ RS=2.000000m
+ N=1
+ TT=4.000000u
+ CJO=439.999910p
+ VJ=1
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=900
+ IBV=1.0
xinstmda3508   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmda3508
*$ end model description: "awbmda3508"
*
*
*$ model description: "awbmda3510"
*b Device model created by analog_uprev for mda3510 on Tue Feb  6 09:16:05 IST 2001
.subckt awbmda3510   1 2 3 4
+ params:
+ IS=749.999940f
+ RS=2.000000m
+ N=1
+ TT=4.000000u
+ CJO=439.999910p
+ VJ=1
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=1100
+ IBV=1.0
xinstmda3510   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbmda3510
*$ end model description: "awbmda3510"
*
*
*$ model description: "awbvbo13_02n01"
*b Device model created by analog_uprev for vbo13_02n01 on Tue Feb  6 09:16:05 IST 2001
.subckt awbvbo13_02n01   1 2 3 4
+ params:
+ IS=1.000000p
+ RS=2.000000m
+ N=1
+ TT=5.300000u
+ CJO=474.999910p
+ VJ=549.999880m
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=100
+ IBV=1.0
xinstvbo13_02n01   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbvbo13_02n01
*$ end model description: "awbvbo13_02n01"
*
*
*$ model description: "awbvbo13_04n01"
*b Device model created by analog_uprev for vbo13_04n01 on Tue Feb  6 09:16:05 IST 2001
.subckt awbvbo13_04n01   1 2 3 4
+ params:
+ IS=1.000000p
+ RS=2.000000m
+ N=1
+ TT=5.300000u
+ CJO=474.999910p
+ VJ=549.999880m
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=500
+ IBV=1.0
xinstvbo13_04n01   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbvbo13_04n01
*$ end model description: "awbvbo13_04n01"
*
*
*$ model description: "awbvbo13_06n01"
*b Device model created by analog_uprev for vbo13_06n01 on Tue Feb  6 09:16:05 IST 2001
.subckt awbvbo13_06n01   1 2 3 4
+ params:
+ IS=1.000000p
+ RS=2.000000m
+ N=1
+ TT=5.300000u
+ CJO=474.999910p
+ VJ=549.999880m
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=700
+ IBV=1.0
xinstvbo13_06n01   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbvbo13_06n01
*$ end model description: "awbvbo13_06n01"
*
*
*$ model description: "awbvbo20_02n01"
*b Device model created by analog_uprev for vbo20_02n01 on Tue Feb  6 09:16:05 IST 2001
.subckt awbvbo20_02n01   1 2 3 4
+ params:
+ IS=749.999940f
+ RS=2.000000m
+ N=1
+ TT=4.000000u
+ CJO=439.999910p
+ VJ=1
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=100
+ IBV=1.0
xinstvbo20_02n01   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbvbo20_02n01
*$ end model description: "awbvbo20_02n01"
*
*
*$ model description: "awbvbo20_04n01"
*b Device model created by analog_uprev for vbo20_04n01 on Tue Feb  6 09:16:05 IST 2001
.subckt awbvbo20_04n01   1 2 3 4
+ params:
+ IS=749.999940f
+ RS=2.000000m
+ N=1
+ TT=4.000000u
+ CJO=439.999910p
+ VJ=1
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=500
+ IBV=1.0
xinstvbo20_04n01   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbvbo20_04n01
*$ end model description: "awbvbo20_04n01"
*
*
*$ model description: "awbvbo20_06n01"
*b Device model created by analog_uprev for vbo20_06n01 on Tue Feb  6 09:16:05 IST 2001
.subckt awbvbo20_06n01   1 2 3 4
+ params:
+ IS=749.999940f
+ RS=2.000000m
+ N=1
+ TT=4.000000u
+ CJO=439.999910p
+ VJ=1
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=700
+ IBV=1.0
xinstvbo20_06n01   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbvbo20_06n01
*$ end model description: "awbvbo20_06n01"
*
*
*$ model description: "awbvbo20_08n01"
*b Device model created by analog_uprev for vbo20_08n01 on Tue Feb  6 09:16:05 IST 2001
.subckt awbvbo20_08n01   1 2 3 4
+ params:
+ IS=749.999940f
+ RS=2.000000m
+ N=1
+ TT=4.000000u
+ CJO=439.999910p
+ VJ=1
+ M=599.999880m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=900
+ IBV=1.0
xinstvbo20_08n01   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbvbo20_08n01
*$ end model description: "awbvbo20_08n01"
*
*
*$ model description: "awbvk648"
*b Device model created by analog_uprev for vk648 on Tue Feb  6 09:16:05 IST 2001
.subckt awbvk648   1 2 3 4
+ params:
+ IS=1.0E-6
+ RS=3.0000m
+ N=2.9893
+ TT=100.000010n
+ CJO=872.000060p
+ VJ=437.000000m
+ M=437.999970m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=700
+ IBV=1000.000000m
xinstvk648   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  tt={TT}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbvk648
*$ end model description: "awbvk648"
*
*
*$ model description: "awbw02m_001"
*b Device model created by analog_uprev for w02m_001 on Tue Feb  6 09:16:05 IST 2001
.subckt awbw02m_001   1 2 3 4
+ params:
+ IS=4.068000n
+ RS=10.990000m
+ N=1.686
+ CJO=100.000000p
+ VJ=699.999940m
+ M=499.999970m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=100
+ IBV=1.0
xinstw02m_001   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbw02m_001
*$ end model description: "awbw02m_001"
*
*
*$ model description: "awbw02m_002"
*b Device model created by analog_uprev for w02m_002 on Tue Feb  6 09:16:05 IST 2001
.subckt awbw02m_002   1 2 3 4
+ params:
+ IS=4.068000n
+ RS=10.990000m
+ N=1.686
+ CJO=100.000000p
+ VJ=699.999940m
+ M=499.999970m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=300
+ IBV=1.0
xinstw02m_002   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbw02m_002
*$ end model description: "awbw02m_002"
*
*
*$ model description: "awbw02m_003"
*b Device model created by analog_uprev for w02m_003 on Tue Feb  6 09:16:05 IST 2001
.subckt awbw02m_003   1 2 3 4
+ params:
+ IS=4.068000n
+ RS=10.990000m
+ N=1.686
+ CJO=100.000000p
+ VJ=699.999940m
+ M=499.999970m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=500
+ IBV=1.0
xinstw02m_003   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbw02m_003
*$ end model description: "awbw02m_003"
*
*
*$ model description: "awbw02m_004"
*b Device model created by analog_uprev for w02m_004 on Tue Feb  6 09:16:05 IST 2001
.subckt awbw02m_004   1 2 3 4
+ params:
+ IS=4.068000n
+ RS=10.990000m
+ N=1.686
+ CJO=100.000000p
+ VJ=699.999940m
+ M=499.999970m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=700
+ IBV=1.0
xinstw02m_004   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbw02m_004
*$ end model description: "awbw02m_004"
*
*
*$ model description: "awbw02m_005"
*b Device model created by analog_uprev for w02m_005 on Tue Feb  6 09:16:05 IST 2001
.subckt awbw02m_005   1 2 3 4
+ params:
+ IS=4.068000n
+ RS=10.990000m
+ N=1.686
+ CJO=100.000000p
+ VJ=699.999940m
+ M=499.999970m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=900
+ IBV=1.0
xinstw02m_005   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbw02m_005
*$ end model description: "awbw02m_005"
*
*
*$ model description: "awbw02m_006"
*b Device model created by analog_uprev for w02m_006 on Tue Feb  6 09:16:05 IST 2001
.subckt awbw02m_006   1 2 3 4
+ params:
+ IS=4.068000n
+ RS=10.990000m
+ N=1.686
+ CJO=100.000000p
+ VJ=699.999940m
+ M=499.999970m
+ EG=1.11
+ XTI=3
+ KF=0
+ AF=1
+ FC=499.999970m
+ BV=1100
+ IBV=1.0
xinstw02m_006   1 2 3 4 model498     params:   is={IS}
+  rs={RS}
+  n={N}
+  cjo={CJO}
+  vj={VJ}
+  m={M}
+  eg={EG}
+  xti={XTI}
+  kf={KF}
+  af={AF}
+  fc={FC}
+  bv={BV}
+  ibv={IBV}
+ 
.ends  awbw02m_006
*$ end model description: "awbw02m_006"
*
*
